US08431575B2
To a stirred solution of 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (0.66 mmol, 0.13 g) in anhydrous THF (0.5 mL) at room temperature was added sodium hydride (60% dispersion in mineral oil) (0.88 mmol, 0.035 g) and continued stirring for 10 min. The reaction mixture was cooled to 0° C. using an ice bath. To this was added a solution of 6-chloro-3-cyclobutyl-4-(4-cyclohexyloxy-phenyl)-pyridazine (0.44 mmol, 0.15 g) in THF (0.5 mL). After completion of addition, the reaction mixture was warmed to 65° C. and stirred for 1 hour. After cooling the reaction to room temperature, the reaction was quenched with water (1 mL) and extracted with ethyl acetate (1×3 mL). The ethyl acetate layer was dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified on a 4 g SiO2 cartridge eluting with a 10-30% ethyl acetate/hexanes gradient to give 4-[6-cyclobutyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester (0.18 g).

reactant | 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 0.66 mmol, 0.13 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | sodium hydride | 0.88 mmol, 0.035 g | [H-].[Na+]
reactant | 6-chloro-3-cyclobutyl-4-(4-cyclohexyloxy-phenyl)-pyridazine | 0.44 mmol, 0.15 g | ClC1=CC(=C(N=N1)C1CCC1)C1=CC=C(C=C1)OC1CCCCC1 | C20H23ClN2O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 4-[6-cyclobutyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester | 0.18 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)C1CCC1 | C30H41N3O4
